US07598391B2
3-(5-Chloro-thiazol-2-yl)-1-cyclohexyl-1-piperidin-1-yl-urea
1-Cyclohexyl-1-piperidin-1-yl-3-thiazol-2-yl-urea (50 mg, 0.16 mmol), prepared in an identical manner to Example 94 was dissolved in DCM (1 mL) and NCS (26 mg, 0.19 mmol)) was added. The reaction mixture was stirred for 3 days before DCM (20 mL) and water (20 mL) was added. The organic phase was dried (MgSO4) and the solvent was removed in vacuo. MeCN (1 mL) was added whereupon the product precipitated. The product was filtered off and dried. Yield: 20 mg.

reactant | 1-Cyclohexyl-1-piperidin-1-yl-3-thiazol-2-yl-urea | 0.16 mmol, 50 mg | C1(CCCCC1)N(C(=O)NC=1SC=CN1)N1CCCCC1 | C15H24N4OS
reactant | NCS | 0.19 mmol, 26 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | water | 20 mL | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Chloro-thiazol-2-yl)-1-cyclohexyl-1-piperidin-1-yl-urea | ClC1=CN=C(S1)NC(N(N1CCCCC1)C1CCCCC1)=O | C15H23ClN4OS
